US05389633
Production of 6-(2,2-diethyl-3-sulfamoyl-1-propoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
To a solution of 1.38 g of 3-(N,N-dimethylamino-methylene)aminosulfonyl-2,2-diethyl-1-propanol in 30 ml of tetrahydrofuran was added 0.23 g of 60% sodium hydride in oil and the mixture was stirred at room temperature for 1 hour. To this reaction mixture was added 0.74 g of 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine and the mixture was refluxed with stirring for 1 hour. After cooling, the reaction mixture was adjusted to pH 6 with 1N-hydrochloric acid and extracted with ethyl acetate-tetrahydrofuran (1:1). The extract was washed with water and dried and the solvent was distilled off. To the residue was added 14 ml of 6N-hydrochloric acid and the mixture was stirred at 110° C. for 30 minutes. After cooling, 100 ml of water was added to the reaction mixture and the resulting crystals were recovered by filtration and recrystallized from methanol to provide 1.16 g of the title compound. m.p. 208°-209° C.

reactant | 3-(N,N-dimethylamino-methylene)aminosulfonyl-2,2-diethyl-1-propanol | 1.38 g | CN(C)C=NS(=O)(=O)CC(CO)(CC)CC | C10H22N2O3S
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 0.74 g | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-(2,2-diethyl-3-sulfamoyl-1-propoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 1.16 g | C(C)C(COC=1C(=CC=2N(N1)N=CN2)C)(CS(N)(=O)=O)CC | C13H21N5O3S
